US06809199B2
4-methoxybenzylamine (2.15 g, 15.7 mmol) was added to a solution of 1,3-dibromo-2-(bromomethyl)-5-nitrobenzene (4.91 g, 13.1 mmol) in DMF (100 mL) under nitrogen at rt. K2CO3 (1.99 g, 14.4 mmol) was then added and the reaction mixture was stirred at rt overnight. The reaction mixture was quenched with 500 mL of water, and extracted with ethyl acetate (3×150 mL). The combined organic layers were dried over MgSO4, filtered and concentrated under reduced pressure. The product was purified by flash chromatography on Biotage 40M columns, eluting with 90:10 hexanes-ethyl acetate to provide N-(2,6-dibromo-4-nitrobenzyl)-N-(4-methoxybenzyl)amine as a red viscous liquid. 1H NMR (500 MHz, CDCl3): δ 3.81 (d, J=3.6 Hz, 4H); 4.20 (s, 3H); 6.88 (d, J=8.4 Hz, 2H); 7.27 (d, J=5.9 Hz, 2H); 8.40 (s, 2H).

reactant | 4-methoxybenzylamine | 15.7 mmol, 2.15 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | 1,3-dibromo-2-(bromomethyl)-5-nitrobenzene | 13.1 mmol, 4.91 g | BrC1=C(C(=CC(=C1)[N+](=O)[O-])Br)CBr | C7H4Br3NO2
reactant | K2CO3 | 14.4 mmol, 1.99 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | N-(2,6-dibromo-4-nitrobenzyl)-N-(4-methoxybenzyl)amine | BrC1=C(CNCC2=CC=C(C=C2)OC)C(=CC(=C1)[N+](=O)[O-])Br | C15H14Br2N2O3
